US06337390B1
D Methyl 5-acetamido-4,7,8,9-tetra-O-acetyl-3,5-dideoxy-D-glycero-β-D-galacto-2-nonulopyranosidonic acid
After a mixture of methyl 5-acetamido-3,5-dideoxy-D-glycero-β-D-galacto-2-nonulopyranosidonic acid [Chem. Ber., 99, 611 (1966)] (150 mg; 0.464 mmol), acetic anhydride (2.3 ml) and pyridine (2.3 ml) was stirred at room temperature for 7 h, the reaction solution was evaporated to dryness in vacuo. The residue was dissolved in chloroform, and treated with Amberist-15 (H type) to obtain the title compound (218 mg, 96%) as white powder.

reactant | methyl 5-acetamido-3,5-dideoxy-D-glycero-β-D-galacto-2-nonulopyranosidonic acid | 0.464 mmol, 150 mg | C(C)(=O)N[C@@H]1[C@H](C[C@](C(=O)O)(OC)O[C@H]1[C@H](O)[C@H](O)CO)O | C12H21NO9
reactant | acetic anhydride | 2.3 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2.3 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 5-acetamido-4,7,8,9-tetra-O-acetyl-3,5-dideoxy-D-glycero-β-D-galacto-2-nonulopyranosidonic acid | 218 mg, 96% | C(C)(=O)N[C@@H]1[C@H](C[C@](C(=O)O)(OC)O[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)COC(C)=O)OC(C)=O | C20H29NO13
